US07625880B2
To a 250 mL round-bottom flask equipped with a magnetic stir-bar was added cyclopropyl phosphonic dichloride (2.33 g, 14.7 mmol) and THF (100 mL). The solution was cooled to −78° C. and vinylmagnesium bromide (58.8 mmol, 1.0 M solution in THF) was added dropwise over 15 minutes. The solution was stirred at −78° C. for 7 hours and then poured, while still cold, into saturated aqueous NH4Cl (200 mL). The resulting solution was extracted with DCM (3×100 mL). The organic layers were combined, washed with brine (2×100 mL), dried over sodium sulfate and concentrated in vacuo to provide cyclopropyl-divinyl-phosphine oxide (0.811 g, 39%) as a light-brown free-flowing oil which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 6.40-6.00 (m, 6H), 0.98-0.80 (m, 5H); GC-CIMS (m/z): (M+1)+ found, 142.

reactant | cyclopropyl phosphonic dichloride | 14.7 mmol, 2.33 g | C1(CC1)P(=O)(Cl)Cl | C3H5Cl2OP
reactant | vinylmagnesium bromide | 58.8 mmol, 1.0 M | C(=C)[Mg]Br
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | cyclopropyl-divinyl-phosphine oxide | 0.811 g, 39% | C1(CC1)P(C=C)(C=C)=O | C7H11OP
